US07414137B2
A dry three-necked round bottom flask fitted with an internal temperature probe and a mechanical stirrer was charged with dimethyl methylphosphonate (36.7 mL, 0.338 mol) and 0.5 L of THF. The solution was purged with nitrogen and cooled to −70° C. 126 mL of a 2.55 M solution of n-butyllithium was added dropwise maintaining an internal reaction temperature less than −60° C. In a separate flask, 3-(4-methoxy-benzyl)-2-oxo-thiazolidine-4-carboxylic acid methoxy-methyl-amide (50.0 g, 0.161 mol) was dissolved in 300 mL of dry THF. The resulting solution was added to the solution of dimethyl methylphosphonate anion at a rate maintaining an internal reaction temperature less than −60° C. The reaction was monitored by HPLC and was considered complete upon the disappearance of starting material. The reaction mixture was slowly added to 50 mL of a 10% citric acid solution at a rate that maintained a temperature of less than 5° C. The mixture was diluted with 0.35 L of water. The THF was removed by distillation at atmospheric pressure. The product was extracted with 300 mL of ethyl acetate. The organic phase was separated and a suspension was formed by the addition of 250 mL of n-heptane. The suspension was stirred for 30 minutes. The resulting solid was isolated by filtration and was dried in a vacuum oven at 40° C. for 12 hours. Approximately 57 g of (R)-dimethyl 2-(3-(4-methoxybenzyl)-2-oxothiazolidin-4-yl)-2-oxoethylphosphonate was obtained (94% yield). 1H NMR (300 MHz, DMSO) δ 7.16 (d, 8.5 Hz, 2H), 6.89 (d, 8.5 Hz, 2H), 4.78 (d, J=15.2 Hz, 1H), 4.69-4.61 (m, 1H), 3.79-3.55 (m, 11H), 3.51-3.27 (m, 3H). 13C NMR (75 MHz, DMSO) δ 36.3, 38.0, 46.9, 53.5, 55.08, 66.1, 114.7, 129.0, 129.9, 159.4, 171.9, 199.0; [α]25.0D-29.60 (c=1.00, EtOH).

reactant | dimethyl methylphosphonate | 0.338 mol, 36.7 mL | CP(OC)(OC)=O | C3H9O3P
reactant | 3-(4-methoxy-benzyl)-2-oxo-thiazolidine-4-carboxylic acid methoxy-methyl-amide | 0.161 mol, 50.0 g | CON(C(=O)C1N(C(SC1)=O)CC1=CC=C(C=C1)OC)C | C14H18N2O4S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | water | 0.35 L | O | H2O
solvent | THF | 0.5 L | C1CCOC1 | C4H8O
product | (R)-dimethyl 2-(3-(4-methoxybenzyl)-2-oxothiazolidin-4-yl)-2-oxoethylphosphonate | 57 g, 94% yield | COC1=CC=C(CN2C(SC[C@H]2C(CP(OC)(OC)=O)=O)=O)C=C1 | C15H20NO6PS
